US08685991B2
Part A. Preparation of ethyl 6-bromobenzo[b]thiophene-2-carboxylate
A solution of ethyl thioglycolate (0.65 g, 5.42 mmol), 4-bromo-2-fluorobenzaldehyde (1.0 g, 4.93 mmol) and triethylamine (1.25 mL, 12.3 mmol) in DMSO (5 mL) was heated at 75° C. for 2 h. The mixture was partitioned between H2O (50 mL) and CH2Cl2 (2×50 mL), and the combined organic layers were dried over Na2SO4. The drying agent was filtered off, and the solvent was removed in vacuo to give the title compound as an oil (1.29 g, 92%).

reactant | ethyl thioglycolate | 5.42 mmol, 0.65 g | C(CS)(=O)OCC | C4H8O2S
reactant | 4-bromo-2-fluorobenzaldehyde | 4.93 mmol, 1.0 g | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
reactant | triethylamine | 12.3 mmol, 1.25 mL | C(C)N(CC)CC | C6H15N
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | ethyl 6-bromobenzo[b]thiophene-2-carboxylate | 1.29 g, 92% | BrC=1C=CC2=C(SC(=C2)C(=O)OCC)C1 | C11H9BrO2S
